* source MICROMOUSE_SIMUATION
C_C1         0 N00153  1n  TC=0,0 
C_C2         0 N00153  1n  TC=0,0 
R_R1         0 N00153  1k TC=0,0 
V_V1         N00153 0  
+PULSE   0 
